US05998412
Di-tert-butyl dicarbonate (2.85 g, 13 mmol) and 4-dimethylaminopyridine (90 mg, 0.7 mmol) were added to a solution of [4-(4-chlorophenyl)piperazine-1-sulfonyl]amine (3.0 g, 15.2 mmol) in tetrahydrofuran (60 ml) at RT. After 12 h, the reaction mixture was concentrated and the residue was chromatographed (SiO2, 25% ethyl acetate/hexane) to give N-tert-butoxycarbonyl-[4-(4-chlorophenyl)piperazine-1-sulfonyl]amine as a white powder (55%).

reactant | Di-tert-butyl dicarbonate | 13 mmol, 2.85 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | [4-(4-chlorophenyl)piperazine-1-sulfonyl]amine | 15.2 mmol, 3.0 g | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)N | C10H14ClN3O2S
catalyst | 4-dimethylaminopyridine | 0.7 mmol, 90 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-tert-butoxycarbonyl-[4-(4-chlorophenyl)piperazine-1-sulfonyl]amine | 55% | C(C)(C)(C)OC(=O)NS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C15H22ClN3O4S
